US04954518
6.5 g of 3-(3-methylsulfonylamino-4-phenoxyphenoxy)-3-methylacrylic acid was suspended in 200 ml of ethanol. Thereto was added 1.3 g of 10% palladium-carbon. The mixture was subjected to hydrogenation at 40°-50° C. at atmospheric pressure. After the completion of the reaction, the catalyst was removed by filtration and the solvent was removed by distillation under reduced pressure. The resulting crystal was recrystallized from toluene to obtain 5.69 g (yield: 87%) of 3-(3-methylsulfonylamino-4-phenoxyphenoxy)-3-methylpropionic acid having a melting point of 121°-124° C.

reactant | 3-(3-methylsulfonylamino-4-phenoxyphenoxy)-3-methylacrylic acid | 6.5 g | CS(=O)(=O)NC=1C=C(OC(=CC(=O)O)C)C=CC1OC1=CC=CC=C1 | C17H17NO6S
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1.3 g | [C].[Pd]
product | 3-(3-methylsulfonylamino-4-phenoxyphenoxy)-3-methylpropionic acid | 5.69 g, yield: 87% | CS(=O)(=O)NC=1C=C(OC(CC(=O)O)C)C=CC1OC1=CC=CC=C1 | C17H19NO6S
